US06077952
(c) (3R,4R)-4-[(2RS,5SR)-5-Methoxycarbonyltetrahydrofuran-2-ylcarbonylmethylthio)-3-phenylacetamidoazetidin-2-one
Potassium carbonate (2.0 g) was added to a stirred solution of (3R,4R)-4-mercapto-3-phenylacetamidoazetidin-2-one (2.31 g) and methyl (2RS,5SR)-5-(2-chloroacetyl)tetrahydro-2-furoate (2.02 g) in dimethylformamide (30 ml). The mixture was stirred at room temperature for 1.5 h and then partitioned between ethyl acetate and water. The aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed three times with water, then brine, dried over magnesium sulphate and evaporated. The title compound (2.208 g) was isolated by column chromatography of the residue (silica gel, ethyl acetate as eluent); νmax (CHCl3) 3410, 3335, 1777, 1736 and 1678 cm -1.

reactant | Potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | (3R,4R)-4-mercapto-3-phenylacetamidoazetidin-2-one | 2.31 g | S[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O | C11H12N2O2S
reactant | methyl (2RS,5SR)-5-(2-chloroacetyl)tetrahydro-2-furoate | 2.02 g | ClCC(=O)C1CCC(O1)C(=O)OC | C8H11ClO4
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (3R,4R)-4-[(2RS,5SR)-5-Methoxycarbonyltetrahydrofuran-2-ylcarbonylmethylthio)-3-phenylacetamidoazetidin-2-one | 2.208 g | COC(=O)C1CCC(O1)C(=O)CS[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O | C19H22N2O6S
